US05294612
4-Pyridinecarboxylic acid chloride hydrochloride (4.3 g, 24 mmol), and 1-cyclopentyl-3-phenylmethyl-4-cyano-5-amino-1H-pyrazole (3.2 g, 12.0 mmol) were combined and heated to 200° C. under argon for 5 minutes. The reaction mixture was cooled to room temperature and the residue was partitioned between chloroform and sat. NaHCO3. The organic layer was separated, washed with additional sat. NaHCO3, dried over anhydrous MgSO4 passed through a plug of silica and the solvent was removed in vacuo to afford 3.8 g (84%) of 1-cyclopentyl-3-phenylmethyl-4-cyano-5-(4-pyridinecarboxamido)-1H-pyrazole as white crystals, m.p. 189°-191° C. when recrystallized from ethyl acetate and dried at 80° C. for 8 hours in high vacuum.

reactant | 4-Pyridinecarboxylic acid chloride hydrochloride | 24 mmol, 4.3 g | Cl.N1=CC=C(C=C1)C(=O)Cl
reactant | 1-cyclopentyl-3-phenylmethyl-4-cyano-5-amino-1H-pyrazole | 12.0 mmol, 3.2 g | C1(CCCC1)N1N=C(C(=C1N)C#N)CC1=CC=CC=C1 | C16H18N4
product | 1-cyclopentyl-3-phenylmethyl-4-cyano-5-(4-pyridinecarboxamido)-1H-pyrazole | 3.8 g, 84% | C1(CCCC1)N1N=C(C(=C1NC(=O)C1=CC=NC=C1)C#N)CC1=CC=CC=C1 | C22H21N5O
